US08455522B2
Step 1: synthesis of 5-bromo-4-chloro-2-hydroxybenzamide
A mixture of methyl 5-bromo-4-chloro-2-hydroxybenzoate (2.655 g, 10.00 mmol) in a solution of ammonia (50.0 ml, 100 mmol) in MeOH was heated at 65° C. for 72 hr. After concentration, the title product was obtained as solid (2.53 g). ESI-MS m/z: 252.1 [M+1]+, Retention time 1.19 min; 1HNMR (CDCl3, 400.342 MHz) δ 7.15 (s, 1H), 7.61 (s, 1H), 12.2 (brs, 1H).

reactant | methyl 5-bromo-4-chloro-2-hydroxybenzoate | 10.00 mmol, 2.655 g | BrC=1C(=CC(=C(C(=O)OC)C1)O)Cl | C8H6BrClO3
reactant | ammonia | 100 mmol, 50.0 ml | N | H3N
solvent | MeOH | CO | CH4O
product | 5-bromo-4-chloro-2-hydroxybenzamide | BrC=1C(=CC(=C(C(=O)N)C1)O)Cl | C7H5BrClNO2
